US08791132B2
To a solution of 2-methyl-8-trifluoromethoxy-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (1.0 g, 3.70 mmol) in DMF (10 mL) was added sodium hydride (445 mg, 11.12 mmol) under nitrogen at 0° C. After stirring for 10 min, 4-(oxiran-2-yl)pyridine (806 g, 6.66 mmol) was added dropwise under nitrogen and the reaction mixture was stirred at RT for 12 h. The progress of reaction was monitored by TLC and LCMS. The reaction mixture was poured into ice-cold water and extracted with EtOAc (2×100 mL). The combined organic layer was washed with water (5×50 mL) and dried over anhydrous sodium sulfate, concentrated and re-crystallized in diethyl ether to yield 2-(2-methyl-8-trifluoromethoxy-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-4-yl-ethanol. 1H NMR (CDCl3, freebase) δ (ppm): 8.58 (d, 2H), 7.17-7.21 (m, 4H), 7.0 (d, 1H), 4.6 (m, 1H), 4.0 (m, 2H), 3.38 (dd, 2H), 2.8 (m, 1H), 2.7 (m, 2H), 2.6 (m, 1H), 2.18 (s, 3H). Separation by chiral HPLC provides enantiomers II-67a-b.

reactant | 2-methyl-8-trifluoromethoxy-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 3.70 mmol, 1.0 g | CN1CC2=C(NC=3C=CC(=CC23)OC(F)(F)F)CC1 | C13H13F3N2O
reactant | sodium hydride | 11.12 mmol, 445 mg | [H-].[Na+]
reactant | 4-(oxiran-2-yl)pyridine | 6.66 mmol, 806 g | O1C(C1)C1=CC=NC=C1 | C7H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-(2-methyl-8-trifluoromethoxy-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-4-yl-ethanol | CN1CC2=C(N(C=3C=CC(=CC23)OC(F)(F)F)CC(O)C2=CC=NC=C2)CC1 | C20H20F3N3O2
